US09334290B2
A mixture of 4-bromo-5-fluoro-2-hydrazinylbenzoic acid hydrochloride (5.37 g, 18.8 mmol), ethyl 3-oxocyclohexanecarboxylate (3.52 g, 20.7 mmol) and acetic acid (3.23 mL, 56.4 mmol) in toluene (90 mL) was heated at 110° C. for 20 h. The solvent was removed under reduced pressure, and the residue was diluted with toluene (43 mL) and trifluoroacetic acid (11 mL). The mixture was stirred at 90-94° C. overnight. The cooled mixture was diluted with EtOAc, sonicated, and the precipitate was collected by filtration. The filtrate was concentrated and resuspended in EtOAc with sonication, resulting in another precipitate which was also collected by filtration and washed with EtOAc. The combined solids were triturated twice with MeOH to give a solid. The combined filtrates were concentrated and the residue was triturated with MeOH to give additional solid. The solids were combined to give 5-bromo-2-ethoxycarbonyl-6-fluoro-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid as a pale yellow solid (3.38 g). Mass spectrum m/z 384, 386 (M+H)+.

reactant | 4-bromo-5-fluoro-2-hydrazinylbenzoic acid hydrochloride | 18.8 mmol, 5.37 g | Cl.BrC1=CC(=C(C(=O)O)C=C1F)NN
reactant | ethyl 3-oxocyclohexanecarboxylate | 20.7 mmol, 3.52 g | O=C1CC(CCC1)C(=O)OCC | C9H14O3
reactant | acetic acid | 56.4 mmol, 3.23 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-2-ethoxycarbonyl-6-fluoro-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid | 3.38 g | BrC1=C2C=3CCC(CC3NC2=C(C=C1F)C(=O)O)C(=O)OCC | C16H15BrFNO4
